US07799805B2
N-[2-(4-Chloro-3-cyclopropylaminomethyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide
A mixture of N-[2-(4-chloro-3-formyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide (175 mg, 0.596 mmol), Et3N (0.125 mL, 0.896 mmol) and cyclopropylamine (0.063 mL, 0.90 mmol) in MeOH (2.00 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (56.4 mg, 1.49 mmol) was added in portions. The mixture was stirred for 1 h, and aq. sat. NaHCO3 was added. The mixture was extracted with EtOAc several times, and the combined org. extracts were washed with brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (CH2Cl2/MeOH 95:5) yielded the title compound (130 mg, 65%). LC-MS: tR=0.65 min; ES+: 335.12.

reactant | N-[2-(4-chloro-3-formyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide | 0.596 mmol, 175 mg | ClC1=C(C=C(C=C1)CCNC(CC(F)(F)F)=O)C=O | C12H11ClF3NO2
reactant | Et3N | 0.896 mmol, 0.125 mL | CCN(CC)CC | C6H15N
reactant | cyclopropylamine | 0.90 mmol, 0.063 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 1.49 mmol, 56.4 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 2.00 mL | CO | CH4O
product | N-[2-(4-Chloro-3-cyclopropylaminomethyl-phenyl)-ethyl]-3,3,3-trifluoro-propionamide | 130 mg, 65% | ClC1=C(C=C(C=C1)CCNC(CC(F)(F)F)=O)CNC1CC1 | C15H18ClF3N2O
